US05298390
Preparation of Bis(benzotriazole-1-yl-methyl)sulfide:
1-(Chloromethyl)benzotriazole (20.4 g), prepared above, and sodium sulfide monohydrate (14.4 g) in anhydrous ethanol (75 ml) were stirred overnight (20 hours) at room temperature. Water (240 ml) was added to the reaction mixture. The precipitate was filtered, washed with water to remove inorganic salts and dried. Crystallization from ethanol gave 15.6 g (88%) of desired product (Compound 1); m.p. 179°-181° C. (lit. 182°-184° C.). Thin Layer Chromotography in (CHCl3 /Ethyl acetate) showed only one spot.

reactant | 1-(Chloromethyl)benzotriazole | 20.4 g | ClCN1N=NC2=C1C=CC=C2 | C7H6ClN3
reactant | sodium sulfide monohydrate | 14.4 g | O.[S-2].[Na+].[Na+]
reactant | Water | 240 ml | O | H2O
solvent | ethanol | 75 ml | C(C)O | C2H6O
product | Bis(benzotriazole-1-yl-methyl)sulfide | 15.6 g, 88% | N1(N=NC2=C1C=CC=C2)CSCN2N=NC1=C2C=CC=C1 | C14H12N6S
